US07109202B2
3-[2-(Pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile (1.5 g, 5.36 mmol) is suspended in hot glacial acetic acid (10 ml) and bromine (0.275 ml) is added dropwise at room temperature with stirring. The resultant suspension is stirred at room temperature for 10 minutes. Water (ca. 100 ml) is added to the mixture, which is basified to pH 9 with solid potassium carbonate. The resulting precipitate is filtered and washed with water to yield 3-[S-bromo-2-(pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile, m.p. 215° C. (dec.), m.s. 279 (ES+, M+—Br).

reactant | 3-[2-(Pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile | 5.36 mmol, 1.5 g | N1=C(C=NC=C1)NC=1SC=C(N1)C=1C=C(C#N)C=CC1 | C14H9N5S
reactant | bromine | 0.275 ml | BrBr | Br2
reactant | Water | ca. 100 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-[S-bromo-2-(pyrazin-2-ylamino)-thiazol-4-yl]-benzonitrile | BrS1C(=NC(=C1)C=1C=C(C#N)C=CC1)NC1=NC=CN=C1 | C14H10BrN5S
